US05684041
Step 3:N-(7-tert-Butyl-2,3-dihydro-3,3-dimethyl-5-benzofuranyl)-N'-methyl urea
Methylisocyanate (0.14 mL, 2.28 mmol) is added dropwise to a solution of 5-amino-7-tert-butyl-2,3-dihydro-3,3-dimethylbenzofuran (500 mg, 2.28 mmol) in Et2O (5 mL). A solid forms over 0.5 h and the reaction is quenched with H2O (10 mL) after 1 h. The reaction is extracted with Et2O (3×10 mL) and the organic layers dried (MgSO4) and evaporated to a tan solid (550 mg). This solid is recrystallized from EtOAc to give the product as white prisms (350 mg, 56%), mp=193°-194° C.

reactant | Methylisocyanate | 2.28 mmol, 0.14 mL | CN=C=O | C2H3NO
reactant | 5-amino-7-tert-butyl-2,3-dihydro-3,3-dimethylbenzofuran | 2.28 mmol, 500 mg | NC=1C=C(C2=C(C(CO2)(C)C)C1)C(C)(C)C | C14H21NO
solvent | Et2O | 5 mL | CCOCC | C4H10O
product | N-(7-tert-Butyl-2,3-dihydro-3,3-dimethyl-5-benzofuranyl)-N'-methyl urea | 350 mg, 56% | C(C)(C)(C)C1=CC(=CC=2C(COC21)(C)C)NC(=O)NC | C16H24N2O2
